2131-09-26 11:55:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yr old man with ischemc cardiomyopathy  presents with sepsis from
   stump infection
   24 Hour Events:
 EKG - At [**2131-9-25**] 09:45 PM
 EKG - At [**2131-9-25**] 10:30 PM
 MULTI LUMEN - START [**2131-9-26**] 12:00 AM
 BLOOD CULTURED - At [**2131-9-26**] 05:00 AM
   RIJ TLC brown port
 BLOOD CULTURED - At [**2131-9-26**] 05:30 AM
   venipuncture
   History obtained from Patient
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-25**] 11:30 PM
   Vancomycin - [**2131-9-26**] 08:00 AM
   Infusions:
   Phenylephrine - 1.1 mcg/Kg/min
   Lidocaine - 1 mg/min
   Other ICU medications:
   Insulin - Humalog - [**2131-9-26**] 12:00 AM
   Ranitidine (Prophylaxis) - [**2131-9-26**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-26**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 70 (60 - 144) bpm
   BP: 105/63(72) {64/46(53) - 110/90(93)} mmHg
   RR: 10 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  1,825 mL
                                                                    798 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,125 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    389 mL
   Urine:
                                                                    350 mL
                                                                    389 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,475 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Gen: lying in bed, thin chronically ill appearing but able to answer
   questons
   HEENT: o/p dry
   CV: RR nl s1/s2
   Chest: faint bibasilar rales
   Abd: llq tenderness to palp
   Extright bka stump warm and eyrthematous, left foot wound dressed cdi
   Neuro: and and o, follows commands, fatigued
   Labs / Radiology
   13.3 g/dL
   433 K/uL
   71 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   72 mg/dL
   107 mEq/L
   137 mEq/L
   41.1 %
   28.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
   WBC
   31.7
   28.4
   Hct
   43.6
   41.1
   Plt
   416
   433
   Cr
   1.6
   1.7
   TropT
   0.08
   Glucose
   126
   71
   Other labs: PT / PTT / INR:19.3/40.6/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, Differential-Neuts:92.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   67M DM, R BKA, polycythemia, h/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) 300**] 20%, VT s/p ablation -  sent
   to ER because drainage from R stump, also diarrhea. In ER given vanco.
   Hypotensive on floor and transferred to ICU. In CCU given IVF. Then
   developed sustained VT and started on lidocaine and VT broke. Also
   placed on neosynephrine.
   Problems:
   Hypotension
   VT
   Cellulitis
   diarrhea
   CRI
   Cardiomyopathy
   DM
   1.       Shock: DDX sepsis with most likely source stump infection.
   Hemodynamics: low MAP still on low dose Neo- check CVP- goal greater
   than 12, check SCVO2, bolus again 500 cc and see if still fluid
   responsive. Trend lactate.
   -          stump
 broad spectrum ABX, call vasc Surgery (Pompeselli)
   -          C diff: po and IV Rx for C diff
 high WBC, send cx
   -          PNA: chronic right sided effusion
 need to find out more
   about hx of this- seems unlikely source and more cardiogenic
   2.       Vtach: Agree with plan to continue lidocaine drip, wean
   pressor as tolerated, Appreciate EP
           3. ARF ; watch UOP and CR with resuscitation, renally dose all
   meds
    Remianing issues
   Patient is critically ill.
   ICU Care
   Nutrition: advance slowly
   Glycemic Control:  SSRI
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: h2 blocker
   Communication:  with ot
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2131-09-26 12:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-9-26**] 05:00 AM
   RIJ TLC brown port
 BLOOD CULTURED - At [**2131-9-26**] 05:30 AM
   venipuncture
   Central Line Placed. Repositioned and pulled back 3 cm following
   radiology confirmation.
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-25**] 11:30 PM
   Vancomycin - [**2131-9-26**] 08:00 AM
   Infusions:
   Phenylephrine - 1.1 mcg/Kg/min
   Lidocaine - 1 mg/min
   Other ICU medications:
   Insulin - Humalog - [**2131-9-26**] 12:00 AM
   Ranitidine (Prophylaxis) - [**2131-9-26**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: Wants foley out
   Musculoskeletal: No(t) Joint pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2131-9-26**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 70 (60 - 144) bpm
   BP: 105/63(72) {64/46(53) - 110/90(93)} mmHg
   RR: 10 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  1,825 mL
                                                                    819 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,125 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    389 mL
   Urine:
                                                                    350 mL
                                                                    389 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,475 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, R BKA red, mild tender, not-fluctuant
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   433 K/uL
   13.3 g/dL
   71 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   72 mg/dL
   107 mEq/L
   137 mEq/L
   41.1 %
   28.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
   WBC
   31.7
   28.4
   Hct
   43.6
   41.1
   Plt
   416
   433
   Cr
   1.6
   1.7
   TropT
   0.08
   Glucose
   126
   71
   Other labs: PT / PTT / INR:19.3/40.6/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, Differential-Neuts:92.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   66 y/o M with PMH of DM type 2, ischemic cardiomyopathy, and PVD s/p R
   BKA admitted with diarrhea, hypotension and elevated WBC consistent
   with sepsis.
   .
   # Hemodynamics: Improved on 1.1 phenylphrine overnight. Known EF 20%.
   MAPs in the 70s. SBP 90 - 110s.
   - Will get CVP transduced via L IJ
   - Asses Scv02 to determine cardiogenic vs septic etiology of patient
   hypotension.
   - Will provide IVF pending above results and follow with clinical
   exams.
   # Infectious Source: Skin/Soft Tissue vs C. Diff. Patients WBC is
   elevated in setting of run of VT overnight so difficult to base
   response to antibiotics this AM with WBC going from 20 -> 30K.
   -  Follow-UP blood cultures, urine cultures, stool for c. diff
   - Will fluid resuscitate, but gently given poor EF.
   - Continue broad spectrum ABX with Zosyn/vancomycin while cultures
   pending
   - Touch base with patients vascular surgeon for evaluation.
   - Cont Vanco PO  for possible C. Diff given loose stools, F/U culture
   .
   # Ventricular Tachycardia: Per EP this morning patients episode of last
   night was VT from likely same site as prior episodes.
   - Continue Lidocaine drip for 24hrs
   - Restart Amiodarone 200 PO Daily
   - Tomorrow will begin Mexilitine 150mg [**Hospital1 **]
   - To be assessed by EP team tomorrow for potential ICD implantation.
    - EP to evaluate in morning - may need ICD implantation
   .
   # Ischemic Cardiomyopathy: Holding BP medications in setting of
   hypotension.
   - Cautious IVF
   - pressor support as needed (with phenylephrine, avoiding dobutamine
   given past adverse reactions).
   - telemetry
   .
   # Chronic Renal Failure: Cr. 1.7 today at baseline.
   - Continue to  monitor, renally dose medications
   .
   # Diabetes:
    Continue home dose NPH, ISS.
   .
   # Hypercoagulability:
   - Curently holding lovenox however will likely restart this PM
   following discussion with other servicees at to whether pt will need to
   go to other procedures in the immediate future
   .
   # Depression:
   - Cont Citalopram.
   .
   # Neuropathy: Oxycontin, neurontin, Vicodin.
   .
   # PPX: Holding lovenox as above, will restart, pneumoboots.
   .
   # FULL CODE
   .
   # Contact: [**Name (NI) 3848**] [**Name (NI) 5723**] [**Telephone/Fax (1) 5724**] (c), [**Telephone/Fax (1) 5725**] (h
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Dispoition: MICU (in CCU) pending clinical improvement.

2131-09-27 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-9-26**] 11:00 AM
   from IJ
 STOOL CULTURE - At [**2131-9-26**] 02:00 PM
   guiac neg
   Pain control overnight w/ oxycontin/oxycodone
   Nurse called to report occaisonal runs of [**5-1**] PVCs/VTAC, not sustained,
   periodic. Pt sleeping comfortably.
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-27**] 12:00 AM
   Vancomycin - [**2131-9-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-9-26**] 09:00 AM
   Enoxaparin (Lovenox) - [**2131-9-26**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 73 (60 - 90) bpm
   BP: 97/41(56) {92/41(54) - 116/64(76)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 0 (0 - 25)mmHg
   Total In:
                                                                  1,784 mL
                                                                    316 mL
   PO:
                                                                    600 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,184 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,049 mL
                                                                    510 mL
   Urine:
                                                                  1,349 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -265 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, R BKA red, mild tender, not-fluctuant
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   328 K/uL
   12.4 g/dL
   95 mg/dL
   1.7 mg/dL
   20 mEq/L
   5.0 mEq/L
   72 mg/dL
   107 mEq/L
   136 mEq/L
   39.4 %
   20.9 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
   WBC
   31.7
   28.4
   20.9
   Hct
   43.6
   41.1
   39.4
   Plt
   [**Telephone/Fax (3) 5746**]
   Cr
   1.6
   1.7
   1.7
   TropT
   0.08
   Glucose
   126
   71
   95
   Other labs: PT / PTT / INR:19.3/40.6/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, ALT / AST:18/20, Alk Phos / T Bili:118/0.3,
   Amylase / Lipase:108/44, Differential-Neuts:92.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, LDH:361 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   66 y/o M with PMH of DM type 2, ischemic cardiomyopathy, and PVD s/p R
   BKA admitted with diarrhea, hypotension and elevated WBC consistent
   with sepsis.
   .
   # Hemodynamics: Improved on 1.1 phenylphrine overnight. Known EF 20%.
   MAPs in the 70s. SBP 90 - 110s.
   - Will get CVP transduced via L IJ
   - Asses Scv02 to determine cardiogenic vs septic etiology of patient
   hypotension.
   - Will provide IVF pending above results and follow with clinical
   exams.
   # Infectious Source: Skin/Soft Tissue vs C. Diff. Patients WBC is
   elevated in setting of run of VT overnight so difficult to base
   response to antibiotics this AM with WBC going from 20 -> 30K.
   -  Follow-UP blood cultures, urine cultures, stool for c. diff
   - Will fluid resuscitate, but gently given poor EF.
   - Continue broad spectrum ABX with Zosyn/vancomycin while cultures
   pending
   - Touch base with patients vascular surgeon for evaluation.
   - Cont Vanco PO  for possible C. Diff given loose stools, F/U culture
   .
   # Ventricular Tachycardia: Per EP this morning patients episode of last
   night was VT from likely same site as prior episodes.
   - Continue Lidocaine drip for 24hrs
   - Restart Amiodarone 200 PO Daily
   - Tomorrow will begin Mexilitine 150mg [**Hospital1 **]
   - To be assessed by EP team tomorrow for potential ICD implantation.
    - EP to evaluate in morning - may need ICD implantation
   .
   # Ischemic Cardiomyopathy: Holding BP medications in setting of
   hypotension.
   - Cautious IVF
   - pressor support as needed (with phenylephrine, avoiding dobutamine
   given past adverse reactions).
   - telemetry
   .
   # Chronic Renal Failure: Cr. 1.7 today at baseline.
   - Continue to  monitor, renally dose medications
   .
   # Diabetes:
    Continue home dose NPH, ISS.
   .
   # Hypercoagulability:
   - Curently holding lovenox however will likely restart this PM
   following discussion with other servicees at to whether pt will need to
   go to other procedures in the immediate future
   .
   # Depression:
   - Cont Citalopram.
   .
   # Neuropathy: Oxycontin, neurontin, Vicodin.
   .
   # PPX: Holding lovenox as above, will restart, pneumoboots.
   .
   # FULL CODE
   .
   # Contact: [**Name (NI) 3848**] [**Name (NI) 5723**] [**Telephone/Fax (1) 5724**] (c), [**Telephone/Fax (1) 5725**] (h
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-27 09:14:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 67 yr old man with
   24 Hour Events:
 EKG - At [**2131-9-26**] 08:00 AM
 BLOOD CULTURED - At [**2131-9-26**] 11:00 AM
   from IJ
 STOOL CULTURE - At [**2131-9-26**] 02:00 PM
   guiac neg
 BLOOD CULTURED - At [**2131-9-27**] 06:45 AM
   - Neosynephrine stopped about noon MAPs about 60
   - Lidocaine stopped at 11PM
   - Leg pain
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-27**] 06:00 AM
   Vancomycin - [**2131-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2131-9-26**] 11:30 PM
   Ranitidine (Prophylaxis) - [**2131-9-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-27**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 69 (68 - 90) bpm
   BP: 97/46(59) {92/41(54) - 116/64(76)} mmHg
   RR: 9 (0 - 24) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Height: 69 Inch
   CVP: 0 (0 - 25)mmHg
   Total In:
                                                                  1,784 mL
                                                                    792 mL
   PO:
                                                                    600 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,184 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  2,049 mL
                                                                    510 mL
   Urine:
                                                                  1,349 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -265 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: lying in bed, thin chronically ill appearing but able to answer
   questions
   HEENT: o/p dry
   CV: RR nl s1/s2
   Chest: faint bibasilar rales
   Abd: lle tenderness to palp (better than yesterday)
   Extright bka stump warm and eyrthematous, left foot wound dressed cdi
   Neuro: and and o, follows commands, fatigued
   Labs / Radiology
   12.2 g/dL
   311 K/uL
   71 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   67 mg/dL
   106 mEq/L
   140 mEq/L
   39.0 %
   21.3 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
                             [**2131-9-27**]  06:28 AM
   WBC
   31.7
   28.4
   20.9
   21.3
   Hct
   43.6
   41.1
   39.4
   39.0
   Plt
   [**Telephone/Fax (3) 5750**]11
   Cr
   1.6
   1.7
   1.7
   1.8
   TropT
   0.08
   Glucose
   126
   71
   95
   71
   Other labs: PT / PTT / INR:19.4/39.5/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, ALT / AST:[**12-10**], Alk Phos / T Bili:103/0.5,
   Amylase / Lipase:108/44, Differential-Neuts:92.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, LDH:303 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   67M DM, R BKA, polycythemia, h/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) 300**] 20%, VT s/p ablation -  sent
   to ER because drainage from R stump, also diarrhea. In ER given vanco.
   Hypotensive on floor and transferred to ICU. In CCU given IVF. Then
   developed sustained VT and started on lidocaine and VT broke. Also
   placed on neosynephrine.
   Problems:
   Hypotension
   VT
   Cellulitis
   diarrhea
   CRI
   Cardiomyopathy
   DM
   1.       Shock: DDX sepsis with most likely source stump infection.
   Hemodynamics: low MAP still able to wean off Neo- CVP high
 holding
   off further fluids-
                 -       Stump
 Appreciate Vasc [**Doctor First Name **] input- left fott
   debrided- follow up CX Continue Vanco/Zosyn
   -          C diff: neg times 2 but will check a third and keep on po
   Vanco
   -          PNA: chronic right sided trnasudative effusion
 cardiogenic
   2.       Vtach: still active. off Lido, EP following possible ICD on
   Monday. Mixelitine.
   3.       Cardiomyopathy:
   4.        ARF on CRF ; watch UOP and CR with resuscitation, renally
   dose all meds
   Remaining issues as per housestaff notes
   Patient is critically ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: zantac
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent:

2131-09-27 14:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt taken off pressors
   Seen by EP that recommended D/C Lidocaine drip after 24hrs with
   transition to [**Hospital1 **] Mexilitine, and place pt on Amiodarone.
   5-6 beat runs NSVT overnight.
   Re-started on Lovenox
   Re-started on pain medications,
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-27**] 12:00 PM
   Vancomycin - [**2131-9-27**] 12:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-9-27**] 08:00 AM
   Enoxaparin (Lovenox) - [**2131-9-27**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling, Neuropathic Pain
   Pain location: Right posterior stump
   Flowsheet Data as of  [**2131-9-27**] 02:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 76 (68 - 90) bpm
   BP: 100/62(68) {83/40(51) - 116/62(76)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 0 (0 - 23)mmHg
   Total In:
                                                                  1,784 mL
                                                                  1,182 mL
   PO:
                                                                    600 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  1,184 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                  2,049 mL
                                                                    920 mL
   Urine:
                                                                  1,349 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -265 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: Distant Heart Sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: No(t) Dullness : ), Clear anteriorly
   without wheeze or appreicated rhonchi or crackls
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Decreased erythmea of R stump. Posterior lesion tended to
   palpation. Left Leg wounds C/D/I
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 503**] / Radiology
   311 K/uL
   12.2 g/dL
   71 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   67 mg/dL
   106 mEq/L
   140 mEq/L
   39.0 %
   21.3 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
                             [**2131-9-27**]  06:28 AM
   WBC
   31.7
   28.4
   20.9
   21.3
   Hct
   43.6
   41.1
   39.4
   39.0
   Plt
   [**Telephone/Fax (3) 5750**]11
   Cr
   1.6
   1.7
   1.7
   1.8
   TropT
   0.08
   Glucose
   126
   71
   95
   71
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:19.4/39.5/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, ALT / AST:[**12-10**], Alk Phos / T Bili:103/0.5,
   Amylase / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %,
   Lymph:7.3 %, Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, LDH:303 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   66yoM with DMII, Ischemic CM, PVD s/p R BKA admitted with sepsis
   # Hemodynamics: Off pressers overnight with MAPs in the 70s. CVP unable
   to assess due to poor wave forms on L IJ. HR has been 60-90s with
   exception runs of NSVT.
   -          D/C IVF
   # Infectious Source: Soft Tissue vs C Diff. Patient has remained on
   Vanc / Zosyn for wound infections and PO Vanc for potential
   reoccurrence for C. Diff. Pt afebrile overnight with decrease in WBC.
   BCx NGTD. C. Diff (-)
   -          Cont Vanc/Zosy
   -          Cont PO Vanc
   -          Will contact Pt
s vascular surgeon
   # VT
 Runs of NSVT overnight off Lidocaine prior to restarting of
   Mexilitine. Started this AM. Pt now in NSR. EP following.
   -          Cont Amiodarone
   -          Con Mexilitine
   -          EP Following with potential EP ablation with ICD placement
   early next week
   # ICM: EF 20%
   -          Holding BP Meds
   # CRI (Stage IIII):  CrCl between 20-40s.
   -          Continue to Dose Meds
   #DMII
   -          Cont home dose NPH, ISS
   # Hypercoagulability:
   -          Restarted on Lovenox overnight
   # Depression: Mood stable
   -          Cont Citalopram
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU (in CCU) with potential transfer to floor late in day

2131-09-28 08:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Frequent 7-14 beat runs of NSVT, asymptomatic, stable VS otherwise.
   Switched to lidocaine gtt due to persistent frequent NSVT.
   History obtained from Patient
   Allergies:
   History obtained from PatientLevofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-28**] 06:37 AM
   Vancomycin - [**2131-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2131-9-27**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-28**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 115 (69 - 115) bpm
   BP: 98/64(67) {83/40(51) - 115/69(77)} mmHg
   RR: 11 (8 - 17) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 25 (18 - 32)mmHg
   Total In:
                                                                  2,020 mL
                                                                    887 mL
   PO:
                                                                  1,080 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                  1,050 mL
   Urine:
                                                                  1,340 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    680 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   Gen: Responds to simple commands
   HEENT: PERRLA, EOMI
   Resp: Diffuse rhonchorous breath sounds
   CV: Irreg rhythm, normal rate, normal s1, s2
   [**Last Name (un) 5781**]: Soft, NT/ND
   Ext: s/p BKA in RLE, erythema, mild tenderness to palpation, LLE
   dressing c/d/I
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   327 K/uL
   11.2 g/dL
   71 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   67 mg/dL
   106 mEq/L
   140 mEq/L
   34.3 %
   20.0 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
                             [**2131-9-27**]  06:28 AM
                             [**2131-9-28**]  06:09 AM
   WBC
   31.7
   28.4
   20.9
   21.3
   20.0
   Hct
   43.6
   41.1
   39.4
   39.0
   34.3
   Plt
   [**Telephone/Fax (3) 5750**]11
   327
   Cr
   1.6
   1.7
   1.7
   1.8
   TropT
   0.08
   Glucose
   126
   71
   95
   71
   Other labs: PT / PTT / INR:19.4/39.5/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, ALT / AST:[**12-10**], Alk Phos / T Bili:103/0.5,
   Amylase / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %,
   Lymph:7.3 %, Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, LDH:303 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   66yoM with DMII, Ischemic CM, PVD s/p R BKA admitted with sepsis
   # Sepsis: Off of pressors >24 hours.  Infectious Source, soft tissue
   infection vs C Diff. Patient has remained on Vanc / Zosyn for wound
   infections and PO Vanc for potential  reoccurrence for C. Diff. Pt
   afebrile overnight with decrease in WBC. BCx NGTD. C. Diff (-) x2.
   -          Cont Vanc/Zosy
   -          Discontinue PO vanc when 3rd set c.diff negative
   -          WBC tag scan of lower exremities to r/o osteomyelolitis,
   given persistent WBC and unclear source of sepsis
   # VT
 Runs of NSVT with stable VSS.  On lidocaine and amiodarone.
   -          Optimize electrolytes
   -          Cont Amiodarone and lidocaine.
   -          EP Following with plans for VT ablation on Mon
   -          Monitor QTc on 12 lead given QTc prolonging nature of
   amiodarone and mexilitene
   # Pleural effusion
 With known LVEF 20%, grossly net pos during LOS.
   -          Diurese with goal 500
 1 L net neg
   -          Monitor lytes carefully with diuresis given frequent NSVT
   # Anemia  - Baseline hct 40, overnight hct 34.  No e/o acute bleed.
   -         Repeat hct
   -         Hemolysis labs
   -         Guaiac stools
   # ICM: EF 20%
   -          Holding BP Meds
   # CRI (Stage IIII):  CrCl between 20-40s.
   -          Continue to Dose Meds
   #DMII
   -          Cont home dose NPH, ISS
   # Hypercoagulability:
   -          Cont lovenox
   # Depression: Mood stable
   -          Cont Citalopram
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:  lovenox sq
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-28 10:41:00 Physician Attending Progress Note
Chief Complaint: sepsis and Vtach
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2131-9-27**] 10:00 AM
 EKG - At [**2131-9-27**] 02:30 PM
   q30 min runs of NSVT, coverted back to IV Lidocaine and take off
   Mixelitine Ep following and plan for ICD on MOnday
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-28**] 06:37 AM
   Vancomycin - [**2131-9-28**] 08:00 AM
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-9-28**] 08:00 AM
   Other medications:
   Amiodarone
   Lyrica
   Lovenox
   Oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-28**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 96 (71 - 115) bpm
   BP: 116/57(72) {83/40(51) - 116/69(77)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Height: 69 Inch
   CVP: 34 (18 - 34)mmHg
   Total In:
                                                                  2,020 mL
                                                                  1,166 mL
   PO:
                                                                  1,080 mL
                                                                    650 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                  1,600 mL
   Urine:
                                                                  1,340 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    680 mL
                                                                   -434 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///13/
   Physical Examination
   Gen: lying in bed, thin chronically ill appearing but able to answer
   questions
   HEENT: o/p dry
   CV: RR nl s1/s2
   Chest: faint bibasilar rales, decrased BS on right compared to left
   Abd: lle tenderness to palp (better than yesterday)
   Extright bka stump warm and eyrthematous, left foot wound dressed cdi
   Neuro: and and o, follows commands, fatigued
   Labs / Radiology
   11.2 g/dL
   327 K/uL
   197 mg/dL
   1.6 mg/dL
   13 mEq/L
   4.1 mEq/L
   52 mg/dL
   104 mEq/L
   139 mEq/L
   37.3 %
   20.0 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
                             [**2131-9-27**]  06:28 AM
                             [**2131-9-28**]  06:09 AM
                             [**2131-9-28**]  09:45 AM
   WBC
   31.7
   28.4
   20.9
   21.3
   20.0
   Hct
   43.6
   41.1
   39.4
   39.0
   34.3
   37.3
   Plt
   [**Telephone/Fax (3) 5750**]11
   327
   Cr
   1.6
   1.7
   1.7
   1.8
   1.6
   TropT
   0.08
   Glucose
   126
   71
   95
   71
   197
   Other labs: PT / PTT / INR:19.4/39.5/1.8, CK / CKMB /
   Troponin-T:50/6/0.08, ALT / AST:[**12-10**], Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %,
   Lymph:7.3 %, Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.4
   g/dL, LDH:514 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   C diff neg x 2
   CXR: worsening right sided pleural effussion
   Assessment and Plan
    67M DM, R BKA, polycythemia, h/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) 300**] 20%, VT s/p ablation -
   sent to ER because drainage from R stump, also diarrhea. In ER given
   vanco. Hypotensive on floor and transferred to ICU. In CCU given IVF.
   Then developed sustained VT and started on lidocaine and VT broke. Also
   placed on neosynephrine.
   Problems:
   Hypotension
   VT
   Cellulitis
   diarrhea
   CRI
   Cardiomyopathy
   DM
   1.       Refractory Vtach: very active, had to re start on IV Lido this
   AM . EP aware Plan for VT ablation on Monday.
   2.       Leukocytosis: etiology still unclear C diff neg x 2- but
   checking third and still on ABX. Other possibilites are right stumo or
   left fott osteo
 check bone scan. Also could he have some resolving
   ischemic bowel had high lactate and low BPS on presentation and has
   severe PVD and hx of bowel infacrtion in past. At this point he is
   eating lactate Is down BP are stable and he would not go to OR
   regardless so hold off on ABD CT for [**Last Name (un) **] but we have a very low
   threshold to reconsider should exam or labs evolve.
   3.       Gap Acidosis: ph 7.23 on VBG and dropping bicarb- chem. 7 had
   been left for several hours. At this ;int repeat
 chem. 7 and VBG for
   confirmation. DDX is abd ischemia as above though lactate only 1.6 and
   benign exam, other possibilites are uremia, dka, also without true ABG
   hard to calc if could be a non gap component as well
            Will follow closely over course of the AM.
   4.       Resp Distress: more hypoxemic this AM, right sided effusion-
   will try to diurese
   5.       Cardiomyopathy: repeat Echo
   6.        ARF on CRF ; watch UOP and CR with resuscitation, renally
   dose all meds
   Remaining issues as per housestaff notes
   Patient is critically ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Crtical Care Total time spent: 40

2131-09-29 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2131-9-28**] 12:00 PM
   Pt went for bone scan. Radioactive dye given and initial pictures taken
   of L foot and knee. He will return for futher tests at 1500
 NUCLEAR MEDICINE - At [**2131-9-28**] 03:00 PM
   Pt retutned to nuclear med. Test was finished but pt too uncomfortable
   to wait for radiologist to check films
   -Periodic runs of [**4-1**] beats of PVCs/VTAC per nursing
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-28**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-29**] 12:00 AM
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-9-28**] 08:00 AM
   Furosemide (Lasix) - [**2131-9-28**] 07:02 PM
   Enoxaparin (Lovenox) - [**2131-9-28**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-29**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 76 (73 - 115) bpm
   BP: 101/58(69) {98/51(62) - 127/76(87)} mmHg
   RR: 10 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Height: 69 Inch
    CVP: 37 (24 - 37)mmHg
   Total In:
                                                                  2,430 mL
                                                                    373 mL
   PO:
                                                                  1,330 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,100 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    200 mL
   Urine:
                                                                  3,850 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   Gen: Awake, alert, cooperative, denies pain or discomfort
   HEENT: PERRLA, EOMI
   Resp: Poor inspiratory effort, but no significant rales, rhonchi or
   wheezing.
   CV: Irreg rhythm, normal rate, normal s1, s2, no murmurs, rubs, gallops
   Abd: Soft, NT/ND
   Ext: s/p BKA in RLE, mild erythema, but significantly improved from
   previous, mild tenderness to palpation around small scab on
   inferior-posterior aspect of RLE no fluctuance or induration. Left foot
   wounds w/o erythema, small amount of yellow drainage in place,
   nontender, dressing was replaced. DP 1+ on left foot.
   Neurologic: Alert oriented, able to move all extremities
   Labs / Radiology
   327 K/uL
   11.2 g/dL
   197 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   52 mg/dL
   108 mEq/L
   139 mEq/L
   37.3 %
   20.0 K/uL
        [image002.jpg]
                             [**2131-9-25**]  11:30 PM
                             [**2131-9-26**]  05:02 AM
                             [**2131-9-26**]  05:31 PM
                             [**2131-9-27**]  06:28 AM
                             [**2131-9-28**]  06:09 AM
                             [**2131-9-28**]  09:45 AM
                             [**2131-9-28**]  11:25 AM
   WBC
   31.7
   28.4
   20.9
   21.3
   20.0
   Hct
   43.6
   41.1
   39.4
   39.0
   34.3
   37.3
   Plt
   [**Telephone/Fax (3) 5750**]11
   327
   Cr
   1.6
   1.7
   1.7
   1.8
   1.6
   1.8
   TropT
   0.08
   0.08
   Glucose
   126
   71
   95
   71
   197
   Other labs: PT / PTT / INR:19.4/39.5/1.8, CK / CKMB /
   Troponin-T:25/6/0.08, ALT / AST:[**12-10**], Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %,
   Lymph:7.3 %, Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.4
   g/dL, LDH:514 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   BONE SCAN [**9-28**]: No evidence of osteomyelitis, some increased blood
   pooling in left foot, may indicate cellulitis.
   MICRO: C-diff negative x 3, BCX: no growth to date.
   Assessment and Plan
   66yoM with DMII, Ischemic CM, PVD s/p R BKA admitted with sepsis
   # Sepsis: Off of pressors > 48 hours.  Infectious source, soft tissue
   infection vs C Diff vs pulmonary. Patient has remained on Vanc / Zosyn
   for wound infections and PO Vanc for potential  reoccurrence for C.
   Diff. Pt afebrile overnight with decrease in WBC. BCx NGTD. C. Diff (-)
   x3, Bone Scan: negative for signs of osteomyelitis.
   -          Continue Vanc/Zosy
   -          Despite C-diff negative x 3, pt has long hx of refractory
   C-diff and continues to have significant diarrhea, given high risk for
   recurrent, will continue VANC PO during stay.
   # VT
 Runs of NSVT with stable VSS.  On lidocaine and amiodarone.
   -          Optimize electrolytes
   -          Cont Amiodarone and lidocaine until ablation by EP
   -          EP Following with plans for VT ablation on Mon
   -          Monitor QTc on 12 lead given QTc prolonging nature of
   amiodarone
   # Pleural effusion
 With known LVEF 20%, grossly net pos during LOS.
   Have been able to keep negative 1.4L yesterday w/ IV lasix 40mg x1
   -          Goal
 1 L net neg again today.
   -          Lasix 40mg IV x1 if needed,  reassess urine output
   -          Monitor lytes carefully with diuresis given frequent NSVT
   # Anemia  - Baseline hct 40, overnight hct 34.  No e/o acute bleed.
   -         Repeat hct
   -         Hemolysis labs
   -         Guaiac stools
   # ICM: EF 20%
   -          Holding BP Meds
   # CRI (Stage IIII):  CrCl between 20-40s.
   -          Continue to Dose Meds
   #DMII
   -          Cont home dose NPH, ISS
   # Hypercoagulability:
   -          Cont lovenox today and tomorrow morning.
   -          Will d/c lovenox Sunday night, for ablation w EP on Monday.
   # Depression: Mood stable
   -          Cont Citalopram
   # Access: R IJ, and PIV x 1
   # FEN: Continue regular, heart healthy diet
   # CODE:
   # Dispo: ICU as pt is unstable and on lidocaine drip, will stay here
   until after ablation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-9-25**] 09:15 PM
   20 Gauge - [**2131-9-25**] 09:15 PM
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-02 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Underwent VT ablation where the patient had the prior substrate
   ablated.
   Pt intubated and placed on low dose Neo while on Propofol
   Pt received 2L during the procedure
   ? Lost L foot pulse during the procedure -> pulse later dopplered while
   back in CCU
   Propofol changed to Versed/Fentanyl
   Recs to keep pt on Amiodarone and B-Blocker
   At 8:30pm had runs of VT
   Post-Cath: Hct 46.8 , K = 5.2
   Echo during procedure: EF 20%
   "Compared with the prior study (images reviewed) of [**2131-8-24**], the left
   ventricular cavity is slightly larger"
   U/A: 11-20 WBCs, Many Bacteria, Mod yeast, sm leuks
   ABG 12am: 7.30 / 42 / 390 / 21
   Had 4am ABG:
   Increased Neo 0.9
 TRANS ESOPHAGEAL ECHO - At [**2131-10-1**] 01:00 PM
 CARDIAC CATH - At [**2131-10-1**] 02:00 PM
   [**2131-10-2**] EP recs 1) wean to extubate 2) transition to Mexiletine 150 mg
   PO Q8H, with overlap of Lidocain 1mg/min
   L FEM ultrasound of cath site with hematoma:
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-1**] 09:00 AM
   Piperacillin - [**2131-10-1**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2131-10-2**] 12:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.9 mcg/Kg/min
   Lidocaine - 1 mg/min
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-10-1**] 09:00 AM
   Furosemide (Lasix) - [**2131-10-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-2**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 80 (34 - 160) bpm
   BP: 102/60(71) {81/41(55) - 146/90(100)} mmHg
   RR: 16 (6 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 51.7 kg (admission): 53 kg
   Height: 69 Inch
             Total In:
                                                                  2,985 mL
                                                                    329 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  2,935 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    185 mL
   Urine:
                                                                    800 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,835 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/40/212//-3
   Ve: 9.6 L/min
   PaO2 / FiO2: 424
   Physical Examination
   GEN: sedated, intubated, awakes to voice, follows commands, denies any
   pain, or difficulty breathing
   HEENT : PERRL, noise slightly violaceous, dry mucus membranes, neck
   supple w/ RIJ, no JVD
   CARD: RRR, s1, s2 wnl, no m/r/g,
   PULM: diffuse rhonchi and upper airway sounds, some basilar rales on R
   > L,
   ABD: flat, soft, non-tender
   GROIN: L fem hematoma, easily palpable pulse, NO bruit, hematoma small,
   smaller than drawn margin
   EXT: L foot cool, no palpable pulse but dopplerable, R stump warm,
   generally less erythematous than before, small areas of erythema around
   scab anteriorly and posteriorly.
   NERUO: pt able to move all extremities, squeeze hands bilaterally
   Labs / Radiology
   360 K/uL
   12.7 g/dL
   81 mg/dL
   1.4 mg/dL
   25 mEq/L
   5.2 mEq/L
   40 mg/dL
   102 mEq/L
   137 mEq/L
   46.8 %
   25.2 K/uL
        [image002.jpg]
   CBC: 33.7, 41.2, 360
   UA: [**6-5**] RBC, [**11-17**] WBC, + Leuk, -Nitrite
                             [**2131-9-27**]  06:28 AM
                             [**2131-9-28**]  06:09 AM
                             [**2131-9-28**]  09:45 AM
                             [**2131-9-28**]  11:25 AM
                             [**2131-9-29**]  06:36 AM
                             [**2131-9-30**]  05:50 AM
                             [**2131-10-1**]  05:30 AM
                             [**2131-10-1**]  08:38 PM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-2**]  04:47 AM
   WBC
   21.3
   20.0
   22.8
   22.2
   25.2
   Hct
   39.0
   34.3
   37.3
   40.8
   40.5
   41.0
   46.8
   Plt
   [**Telephone/Fax (3) 5859**]33
   360
   Cr
   1.8
   1.6
   1.8
   1.6
   1.4
   1.4
   TropT
   0.08
   TCO2
   21
   23
   Glucose
   71
   197
   85
   97
   81
   Other labs: PT / PTT / INR:17.5/41.7/1.6, CK / CKMB /
   Troponin-T:25/6/0.08, ALT / AST:[**9-6**], Alk Phos / T Bili:96/0.5, Amylase
   / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL,
   LDH:323 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   CXR: Intubated, w/  ETT 8cm above [**Female First Name (un) 5882**], RIJ ends in SVC/RA, R sided
   effusion significantly  improved from previous, L  also improved.
   Assessment and Plan
   66yoM with DMII, Ischemic CM, PVD s/p R BKA admitted with sepsis,
   likely [**1-27**] to cellulitis or colitis also w/ VT s/p previous ablation.
   # VT
 Underwent VT-ablation yesterday, though did have VT during
   ablation. EP ablated around previous scar. had tenuous pressures w/
   sedation and was started on Neo and kept intubated.  Overnight pt had
   [**2-27**] Runs of NSVT for 30-60seconds, with stable VSS.
   -          Cont Amiodarone
   -          Continue Lidocaine 1mg/min
   -          Start  Mexiletine when taking PO and overlap for 24 h w/
   lidocaine.
   -          Monitor QTc on 12 lead given QTc prolonging nature of
   amiodarone
   # Sepsis: Afbrile andhemodynamically stable off pressors for the last
   48hour, now back on pressors this am but being weaned off and will
   likely be off later this morning. WBC up from 25 to 33.7 after the
   procedure, which might be [**1-27**] demarginization. However, there is also a
   UA w/ 6-10RBCs, 11-22WBC, although this is difficult to interpret given
   WBC of 35 and high baseline [**1-27**] hx of polycythemia. Extremeties look
   greatly improved from previous, though appear somewhat peripherally
   vasoconstricted from Neo this am. Pt continues to have very loose
   stools although C Diff Negative x3.
   -          Continue Vanc/Zosy for 10 day course, currently day #7
   -          Will continue on PO Vanc while on abx given pts hx of
   recurrent C Diff
   # Pleural effusion
 Significantly improved this am on ventilaror,
   suggesting effusion that was mobilized with increased positive
   pressure.
   -          Will continue with diuresis post EP  procedure.
   -          [**Month (only) 60**] consider R thoracentesis later when more stable
   # Anemia  - Stable, HCT 41.2 down from 46.8. Likely somewhat contracted
   intravascularlly.
   -               Guaiac stools
   -               Trend HCTs
   -
   # ICM: EF 20%
   -          Holding BP Meds for now
   # CRI (Stage IIII):  CrCl between 20-40s.
   -          Continue to Dose Meds
   #DMII
   -          Cont home dose NPH, ISS
   # Hypercoagulability:
   -               Held Lovenox this am for ablation.
   -               Restart today
   # Depression: Mood stable
   -          Cont Citalopram
   # Access: R IJ, and PIV x 1
   # FEN: Continue regular, heart healthy diet
   # CODE: Full
   # PPX: Lovenox, Ranitidine (give 1 dose of IV PPI today while
   intubated, back to PO when extubated)
   # Dispo: ICU as pt is unstable and on lidocaine drip, will stay here
   until after stabilized.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-03 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin - [**2131-10-1**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2131-10-3**] 12:00 AM
   Vancomycin - [**2131-10-3**] 12:00 AM
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2131-10-2**] 05:00 PM
   Furosemide (Lasix) - [**2131-10-2**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-3**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 69 (60 - 99) bpm
   BP: 102/57(68) {84/38(47) - 121/69(81)} mmHg
   RR: 11 (8 - 30) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 51.7 kg (admission): 53 kg
   Height: 69 Inch
             Total In:
                                                                  2,091 mL
                                                                    258 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,371 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    381 mL
   Urine:
                                                                  1,865 mL
                                                                    380 mL
   NG:
   Stool:
                                                                      5 mL
                                                                      1 mL
   Drains:
   Balance:
                                                                    221 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 554 (554 - 554) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 95%
   ABG: ////
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   471 K/uL
   13.0 g/dL
   65 mg/dL
   1.7 mg/dL
   23 mEq/L
   5.0 mEq/L
   48 mg/dL
   101 mEq/L
   137 mEq/L
   41.2 %
   33.7 K/uL
        [image002.jpg]
                             [**2131-9-28**]  06:09 AM
                             [**2131-9-28**]  09:45 AM
                             [**2131-9-28**]  11:25 AM
                             [**2131-9-29**]  06:36 AM
                             [**2131-9-30**]  05:50 AM
                             [**2131-10-1**]  05:30 AM
                             [**2131-10-1**]  08:38 PM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-2**]  04:47 AM
                             [**2131-10-2**]  05:48 AM
   WBC
   20.0
   22.8
   22.2
   25.2
   33.7
   Hct
   34.3
   37.3
   40.8
   40.5
   41.0
   46.8
   41.2
   Plt
   327
   293
   333
   360
   471
   Cr
   1.6
   1.8
   1.6
   1.4
   1.4
   1.7
   TropT
   0.08
   TCO2
   21
   23
   Glucose
   197
   85
   97
   81
   65
   Other labs: PT / PTT / INR:17.7/37.9/1.6, CK / CKMB /
   Troponin-T:25/6/0.08, ALT / AST:[**9-6**], Alk Phos / T Bili:96/0.5, Amylase
   / Lipase:108/44, Differential-Neuts:89.4 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.7 %, Eos:1.5 %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL,
   LDH:323 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   66yoM with DMII, Ischemic CM, PVD s/p R BKA admitted with sepsis,
   likely [**1-27**] to cellulitis or colitis also w/ VT s/p previous ablation.
   # VT
 Underwent VT-ablation yesterday, though did have VT during
   ablation. EP ablated around previous scar. had tenuous pressures w/
   sedation and was started on Neo and kept intubated.  Overnight pt had
   [**2-27**] Runs of NSVT for 30-60seconds, with stable VSS.
   -          Cont Amiodarone
   -          Continue Lidocaine 1mg/min
   -          Start  Mexiletine when taking PO and overlap for 24 h w/
   lidocaine.
   -          Monitor QTc on 12 lead given QTc prolonging nature of
   amiodarone
   # Sepsis: Afbrile andhemodynamically stable off pressors for the last
   48hour, now back on pressors this am but being weaned off and will
   likely be off later this morning. WBC up from 25 to 33.7 after the
   procedure, which might be [**1-27**] demarginization. However, there is also a
   UA w/ 6-10RBCs, 11-22WBC, although this is difficult to interpret given
   WBC of 35 and high baseline [**1-27**] hx of polycythemia. Extremeties look
   greatly improved from previous, though appear somewhat peripherally
   vasoconstricted from Neo this am. Pt continues to have very loose
   stools although C Diff Negative x3.
   -          Continue Vanc/Zosy for 10 day course, currently day #7
   -          Will continue on PO Vanc while on abx given pts hx of
   recurrent C Diff
   # Pleural effusion
 Significantly improved this am on ventilaror,
   suggesting effusion that was mobilized with increased positive
   pressure.
   -          Will continue with diuresis post EP  procedure.
   -          [**Month (only) 60**] consider R thoracentesis later when more stable
   # Anemia  - Stable, HCT 41.2 down from 46.8. Likely somewhat contracted
   intravascularlly.
   -               Guaiac stools
   -               Trend HCTs
   -
   # ICM: EF 20%
   -          Holding BP Meds for now
   # CRI (Stage IIII):  CrCl between 20-40s.
   -          Continue to Dose Meds
   #DMII
   -          Cont home dose NPH, ISS
   # Hypercoagulability:
   -               Held Lovenox this am for ablation.
   -               Restart today
   # Depression: Mood stable
   -          Cont Citalopram
   # Access: R IJ, and PIV x 1
   # FEN: Continue regular, heart healthy diet
   # CODE: Full
   # PPX: Lovenox, Ranitidine (give 1 dose of IV PPI today while
   intubated, back to PO when extubated)
   # Dispo: ICU as pt is unstable and on lidocaine drip, will stay here
   until after stabilized.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-03 11:48:00 Physician Attending Progress Note
Chief Complaint: vtach
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated now on 2L
   Started po Mixelitine, Lidocaine decreased  to 0.5, no runs of Vtach
   Allergies:
   Levofloxacin
   Hives;
   Cefazolin
   Nausea/Vomiting
   Coreg (Oral) (Carvedilol)
   fatigue;
   Dopamine
   ventricular tac
   Last dose of Antibiotics:
   Piperacillin - [**2131-10-1**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2131-10-3**] 06:00 AM
   Vancomycin - [**2131-10-3**] 08:00 AM
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2131-10-2**] 09:30 PM
   Enoxaparin (Lovenox) - [**2131-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-3**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 72 (67 - 87) bpm
   BP: 113/62(74) {84/38(47) - 116/64(77)} mmHg
   RR: 13 (8 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 51.7 kg (admission): 53 kg
   Height: 69 Inch
             Total In:
                                                                  2,091 mL
                                                                  1,133 mL
   PO:
                                                                    720 mL
                                                                    440 mL
   TF:
   IVF:
                                                                  1,371 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    382 mL
   Urine:
                                                                  1,865 mL
                                                                    380 mL
   NG:
   Stool:
                                                                      5 mL
                                                                      2 mL
   Drains:
   Balance:
                                                                    221 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 554 (554 - 554) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 92%
   ABG: ///24/
   Ve: 6.1 L/min
   Physical Examination
   Gen: lying in bed, conversant, complains of fatigue
   CV: rr
   Chest: decreased BS pn right
   Abd soft NT + BS
   Ext right BKA with decreased erythema
   Labs / Radiology
   12.1 g/dL
   416 K/uL
   81 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   45 mg/dL
   103 mEq/L
   139 mEq/L
   37.5 %
   22.7 K/uL
        [image002.jpg]
                             [**2131-9-28**]  09:45 AM
                             [**2131-9-28**]  11:25 AM
                             [**2131-9-29**]  06:36 AM
                             [**2131-9-30**]  05:50 AM
                             [**2131-10-1**]  05:30 AM
                             [**2131-10-1**]  08:38 PM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-2**]  04:47 AM
                             [**2131-10-2**]  05:48 AM
                             [**2131-10-3**]  05:57 AM
   WBC
   22.8
   22.2
   25.2
   33.7
   22.7
   Hct
   37.3
   40.8
   40.5
   41.0
   46.8
   41.2
   37.5
   Plt
   293
   333
   360
   471
   416
   Cr
   1.8
   1.6
   1.4
   1.4
   1.7
   1.7
   TropT
   0.08
   TCO2
   21
   23
   Glucose
   85
   97
   81
   65
   81
   Other labs: PT / PTT / INR:17.8/38.6/1.6, CK / CKMB /
   Troponin-T:25/6/0.08, ALT / AST:[**9-11**], Alk Phos / T Bili:85/0.4, Amylase
   / Lipase:108/44, Differential-Neuts:91.6 %, Band:0.0 %, Lymph:3.9 %,
   Mono:2.4 %, Eos:1.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL,
   LDH:402 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   67-year-old man admitted with resolved septic shock due to stump
   infection.  PMH is quite complicated (including polycythemia, h/o
   [**Last Name (LF) **], [**First Name3 (LF) 300**] 20%, VT s/p ablation).  Other major issue has included VT s/p
   ablation and now Lido/Mixelitine
   1.        Refractory Vtach: restarted on lidocaine, s/p substrate
   ablation. Better on Mixelitine po and overlap with Lido  - will d/c
   Lido. Appreciate EP input
   2.        Sepsis.  Still suspect that stump infection was major
   culprit; appreciate vascular
s help.  C diff has been a [**Last Name 551**] problem
   for him before and we are keeping on Rx while on ABX for stump infx.
   Leukocytosis post EP procedure
back to elevated baseline work up for
   osteo neg to date
   3.        Resp Distress: extubated and improved
   4.        Cardiomyopathy: continue present rx- goal 500 to 1000 cc neg
   5.        ARF on CRF: stable at present
   6.        Hypercoagulability:  on LMWH.  Hold before EP procedure.
   Remaining issues as per housestaff notes
   Patient is critically ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-26**] 12:00 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: zantac
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35